US06787544B2
In 5 mL of 25% aqueous ammonia is suspended 0.25 g of methyl 6-chloro-3-hydroxy-2-pyrazinecarboxylate obtained according to the method described in literature [J. Med. Chem., 285-287 (1969)]. The suspension is stirred at ambient temperature for 1 hour. The deposited crystals are collected by filtration to obtain 0.18 g of 6-chloro-3-hydroxy-2-pyrazinecarboxamide.

reactant | methyl 6-chloro-3-hydroxy-2-pyrazinecarboxylate | 0.25 g | ClC1=CN=C(C(=N1)C(=O)OC)O | C6H5ClN2O3
reactant | ammonia | 5 mL | N | H3N
product | 6-chloro-3-hydroxy-2-pyrazinecarboxamide | 0.18 g | ClC1=CN=C(C(=N1)C(=O)N)O | C5H4ClN3O2
